US07875639B2
N-[(2Z)-3-(2-ethoxyethyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide
4,5-Dimethylthiazol-2-ylamine, 1-bromo-2-ethoxyethane and 1-adamantane carboxylic acid were processed as described in Example 47 to afford the title compound. 1H NMR (CDCl3, 500 MHz) δ ppm 1.05 (t, J=7.02 Hz, 3 H) 1.61-1.76 (m, 6 H) 1.84 (d, J=2.50 Hz, 6 H) 1.95-2.03 (m, 3 H) 2.16 (s, 3 H) 2.21 (s, 3 H) 3.43 (q, J=7.07 Hz, 2 H) 3.69 (t, J=5.46 Hz, 2 H) 4.24 (t, J=5.46 Hz, 2 H); MS (ESI) m/z 363 (M=H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | CC=1N=C(SC1C)N | C5H8N2S
reactant | 1-bromo-2-ethoxyethane | BrCCOCC | C4H9BrO
reactant | 1-adamantane carboxylic acid | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
product | N-[(2Z)-3-(2-ethoxyethyl)-4,5-dimethyl-1,3-thiazol-2(3H)-ylidene]adamantane-1-carboxamide | C(C)OCCN1/C(/SC(=C1C)C)=N/C(=O)C12CC3CC(CC(C1)C3)C2 | C20H30N2O2S
